US07582761B2
(a) 6-trifluoromethyl-4-(4-trifluoromethyl-phenyl)-1,3-dihydro-benzoimidazol-2-one
4-Bromo-6-trifluoromethyl-1,3-dihydro-benzoimidazol-2-one 562 mg, 2.0 mmol, Example 6a) reacted with 4-trifluoromethylphenylboronic acid (760 mg, 4.0 mmol, Aldrich) under the conditions of Example 10 to give the title compound as a white solid. MS (ESI, neg. ion) m/z: 345 (M−1).

reactant | 4-Bromo-6-trifluoromethyl-1,3-dihydro-benzoimidazol-2-one | 2.0 mmol, 562 mg | BrC1=CC(=CC=2NC(NC21)=O)C(F)(F)F | C8H4BrF3N2O
reactant | 4-trifluoromethylphenylboronic acid | 4.0 mmol, 760 mg | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
product | 6-trifluoromethyl-4-(4-trifluoromethyl-phenyl)-1,3-dihydro-benzoimidazol-2-one | FC(C=1C=C(C2=C(NC(N2)=O)C1)C1=CC=C(C=C1)C(F)(F)F)(F)F | C15H8F6N2O
